US07501425B1
1-Bicyclo [2.2.1]hept-2-yl-7-[4-(4-methylpiperazin-1-yl)phenylamino]-pyrimido[4,5-d]pyrimidin-2(1H)-one, exo
Prepared from 200 mg (0.46 mmol) of 1-bicyclo[2.2.1]hept-2-yl-7-[4-(4-methylpiperazin-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one, exo and 207 mg (1.84 mmol) of potassium tert-butoxide in 10 mL of tetrahydrofuran. The reaction mixture is stirred for 48 hours. After the workup, the semi-solid is triturated in diethyl ether/hexane, and the powder is collected and dried to give 140 mg (70%) of the title compound: mp>210° C. (dec).

reactant | 1-bicyclo[2.2.1]hept-2-yl-7-[4-(4-methylpiperazin-1-yl)phenylamino]-3,4-dihydro-pyrimido[4,5-d]pyrimidin-2(1H)-one | 0.46 mmol, 200 mg | C12C(CC(CC1)C2)N2C(NCC=1C2=NC(=NC1)NC1=CC=C(C=C1)N1CCN(CC1)C)=O | C24H31N7O
reactant | potassium tert-butoxide | 1.84 mmol, 207 mg | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 1-Bicyclo [2.2.1]hept-2-yl-7-[4-(4-methylpiperazin-1-yl)phenylamino]-pyrimido[4,5-d]pyrimidin-2(1H)-one | 140 mg, 70% | C12C(CC(CC1)C2)N2C(N=CC=1C2=NC(=NC1)NC1=CC=C(C=C1)N1CCN(CC1)C)=O | C24H29N7O
